US08067408B2
3-Bromo-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzonitrile
A suspension of 3-bromo-5-(bromomethyl)benzonitrile (12.5 g, 45.5 mmol), potassium phthalate (7.16 g, 38.6 mmol), and in DMF (100 mL) was stirred under reflux for 4 h. After cooled to room temperature, the solvent was remove under reduced pressure and the residue was dissolved in CHCl3 (200 mL). The organic layer was washed with water (50 mL×2), dried over Na2SO4, and concentrated in vacuum to obtain 15.2 g of the crude product. The product, 3-bromo-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzonitrile (3.50 g, 23%) was purified by flash column chromatography. 1H NMR (400 MHz, CDCl3): δ 7.90-7.87 (m, 2 H), 7.81-7.80 (m, 1 H), 7.77-7.75 (m, 2 H), 7.71-7.70 (m, 1 H), 7.66-7.65 (m, 1 H), 4.83 (s, 2 H).

reactant | 3-bromo-5-(bromomethyl)benzonitrile | 45.5 mmol, 12.5 g | BrC=1C=C(C#N)C=C(C1)CBr | C8H5Br2N
reactant | potassium phthalate | 38.6 mmol, 7.16 g | C(C=1C(C(=O)[O-])=CC=CC1)(=O)[O-].[K+].[K+]
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-Bromo-5-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]benzonitrile | 15.2 g | BrC=1C=C(C#N)C=C(C1)CN1C(C2=CC=CC=C2C1=O)=O | C16H9BrN2O2
